US05075299
6-Hydroxymethyl-5-p-methoxybenzyloxy-2-methyl-4-pyrone
To a suspension of 5.9 g of 6-hydroxymethyl-5-hydroxy-2-methyl-4-pyrone in 60 ml of dimethylformamide were successively added 6.2 g of potassium carbonate and 6.2 ml of p-methoxybenzyl chloride. The mixture was stirred at 70° C. for 2 hours. The reaction liquid was concentrated and 200 ml of water and 400 ml of dichloromethane were added to the concentrate. The organic phase was then washed with 200 ml of water. After drying over anhydrous magnesium sulfate, the organic phase was concentrated under reduced pressure. The concentrate was then separated and purified by flash column chromatography (eluting solution; chloroform: methanol=20:1) using Wako Gel C-300 (300 g) to give 5.9 g of the title compound.

reactant | 6-hydroxymethyl-5-hydroxy-2-methyl-4-pyrone | 5.9 g | OCC1=C(C(C=C(O1)C)=O)O | C7H8O4
reactant | potassium carbonate | 6.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-methoxybenzyl chloride | 6.2 ml | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 6-Hydroxymethyl-5-p-methoxybenzyloxy-2-methyl-4-pyrone | 5.9 g | OCC1=C(C(C=C(O1)C)=O)OCC1=CC=C(C=C1)OC | C15H16O5
